US07709483B2
3-{4-Amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}propanamide (0.175 g, 0.58 mmol) was dissolved in EtOH (15 mL) and HCl gas was bubbled through the solution until saturated. The solution was heated at reflux for 2 h, cooled to ambient temperature and concentrated under vacuum. The residue was dissolved in water and extracted with EtOAc (3×). The organic layers were combined, dried over Na2SO4, filtered and concentrated under vacuum to yield ethyl 3-{4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}propanoate as a white solid. LCMS: m/z 332.2 (MH+). This product was then dissolved in DMF (5 mL), treated with K2CO3 (0.16 g, 1.16 mmol) and heated at 75° C. for 30 minutes. The solution was cooled, diluted with water and extracted with Et2O (3×). The organic layer was dried over Na2SO4, filtered, and concentrated under vacuum. The crude residue was then purified by column chromatography (silica gel) to yield an additional 0.11 g of the desired compound as an off-white solid.

reactant | 3-{4-Amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}propanamide | 0.58 mmol, 0.175 g | NC1=NC(=NC(=C1CCC(=O)N)Cl)\C=C\C1=CC=CC=C1 | C15H15ClN4O
reactant | EtOH | 15 mL | CCO | C2H6O
product | ethyl 3-{4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}propanoate | NC1=NC(=NC(=C1CCC(=O)OCC)Cl)\C=C\C1=CC=CC=C1 | C17H18ClN3O2
